US08377923B2
4-fluorophenol (5.0 g) was dissolved in DMF (50 ml), ethyl 2-bromo-2-methylpropanoate (13.3 ml) and potassium carbonate (9.25 g) were added thereto, followed by stirring at 100° C. for 2 hours. The reaction solution was cooled to room temperature and water was added thereto, followed by extraction with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and concentrated. The resulting residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=19:1) to obtain ethyl 2-(4-fluorophenoxy)-2-methylpropanoate (5.13 g) as a colorless oily product.

reactant | 4-fluorophenol | 5.0 g | FC1=CC=C(C=C1)O | C6H5FO
reactant | ethyl 2-bromo-2-methylpropanoate | 13.3 ml | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | potassium carbonate | 9.25 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | ethyl 2-(4-fluorophenoxy)-2-methylpropanoate | 5.13 g | FC1=CC=C(OC(C(=O)OCC)(C)C)C=C1 | C12H15FO3
